US09061030B2
A solution of pyrazole (1.1 eq) in DMF is treated with sodium hydride (e.g., about 60% w/w in mineral oil, about 1.2 eq) and stirred for about 10 min at room temperature. 2-(5-Bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine (I-16, e.g., 1.0 eq) is then added. The resultant mixture is warmed to about 50° C. and stirred at that temperature for about 1 h. The reaction solution is cooled to room temperature, poured into water, and filtered to yield 2-(1-(2-fluorobenzyl)-5-(1H-pyrazol-1-yl)-1H-1,2,4-triazol-3-yl)pyridine (I-10) as a solid.

reactant | pyrazole | 1.1 eq | N1N=CC=C1 | C3H4N2
reactant | sodium hydride | about 1.2 eq | [H-].[Na+]
reactant | 2-(5-Bromo-1-(2-fluorobenzyl)-1H-1,2,4-triazol-3-yl)pyridine | 1.0 eq | BrC1=NC(=NN1CC1=C(C=CC=C1)F)C1=NC=CC=C1 | C14H10BrFN4
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-(1-(2-fluorobenzyl)-5-(1H-pyrazol-1-yl)-1H-1,2,4-triazol-3-yl)pyridine | FC1=C(CN2N=C(N=C2N2N=CC=C2)C2=NC=CC=C2)C=CC=C1 | C17H13FN6
